US06232290B1
To a suspension of a mixture of methyl 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoate and 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid (2.0 g), potassium carbonate (14.6 g) and N,N-dimethylformamide (15 ml) was added 1,5-dibromopentane (10 ml) and the mixture was stirred at 100° C. (bath temperature) for 1.5 hours. The resulting mixture was neutralized by 0.1N hydrochloric acid and extracted with dichloromethane. The organic layer was washed with brine and dried over magnesium sulfate. The solvents were removed under reduced pressure and the residue was triturated with n-hexane. The solid was collected by filtration and dried. To this compound was added phenol (1.43 g), potassium carbonate (2.10 g) and N,N-dimethylformamide (30 ml), and the mixture was stirred at 100° C. (bath temperature) for 20 hours. After cooling, the reaction mixture was poured into saturated sodium hydrogen carbonate aqueous solution. The resulting precipitate was collected by filtration, washed with water. To this compound was added tetrahydrofuran (20 ml), ethanol (20 ml) and 10% sodium hydroxide aqueous solution (2.6 ml). The mixture was refluxed for 1.5 hours. The reactor mixture was diluted with water, acidified with 1N hydrochloric acid (10 ml). The resulting precipitate was collected by filtration, washed with water, dried under reduced pressure to give 4-[5-[4-(5-phenoxy-n-pentyloxy) phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid (2.47 g), that was used crude in the next reaction.

reactant | methyl 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoate | OC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OC)C=C1 | C16H12N2O3S
reactant | 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid | 2.0 g | OC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C15H10N2O3S
reactant | potassium carbonate | 14.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dibromopentane | 10 ml | BrCCCCCBr | C5H10Br2
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-[5-[4-(5-phenoxy-n-pentyloxy) phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid | 2.47 g | O(C1=CC=CC=C1)CCCCCOC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C26H24N2O4S
